Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
dizziness, light headedness, neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
NOT A CODE STROKE

Time/Date the patient was last known well: ___

___ Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

REASON FOR CONSULTATION: Right CCA->ICA dissection

HPI: 
___ ___ CAD, prostate ca s/p stenting who presents as a transfer
from OSH with right CCA/ICA dissection.

Patient went to bed in his usual state of health last night, and
when he got out of bed this morning he noticed that he felt a
little "unsteady". He also reports feeling slightly 
light-headed.
He denies any headache, neck pain, visual changes, speech
difficulties, dysphagia, weakness, parasthesias. He did not veer
to one side or the other when he was walking and did not need to
hold on to anything. Of note, he was unloading firewood 
yesterday
and the day before and now reports right shoulder ache.
 

ROS: 
Per HPI

 
Past Medical History:
NOT A CODE STROKE

Time/Date the patient was last known well: ___

___ Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

REASON FOR CONSULTATION: Right CCA->ICA dissection

HPI: 
___ PMH CAD, prostate ca s/p stenting who presents as a transfer
from OSH with right CCA/ICA dissection.

Patient went to bed in his usual state of health last night, and
when he got out of bed this morning he noticed that he felt a
little "unsteady". He also reports feeling slightly 
light-headed.
He denies any headache, neck pain, visual changes, speech
difficulties, dysphagia, weakness, parasthesias. He did not veer
to one side or the other when he was walking and did not need to
hold on to anything. Of note, he was unloading firewood 
yesterday
and the day before and now reports right shoulder ache.
 

ROS: 
Per HPI

 
Social History:
___
Family History:
Father- died at ___, first MI at ___
sister: HLD
Brother: HLD, lymphoma

 
Physical Exam:
Exam on admission:

Vitals: T 97.3 HR 73  BP 147/81 RR 18  O2 97% RA 
General: Awake, cooperative, NAD, looks younger than stated age
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
comprehension. Normal prosody. There were no paraphasic errors. 
No dysarthria. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   1     1      1      1     1
R   1     1      1      1     1 

Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: deferred

Exam on discharge:
 
Vitals: T 97.3 HR 73  BP 147/81 RR 18  O2 97% RA 
General: Awake, cooperative, NAD, looks younger than stated age
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
comprehension. Normal prosody. There were no paraphasic errors. 
No dysarthria. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS. Romberg absent. 

-Reflexes:
Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: normal stride length, normal arm swing

 
Pertinent Results:
MRA head and neck with fat sat ___: 
There is no eccentric T1 hyperintensity to suggest dissection, 
especially in area corresponding to the apparent flap seen the 
right common carotid/CCA junction on external CTA. 
  
The common, internal and external carotid arteries appear 
normal.  There is no evidence of stenosis by NASCET criteria. 
The origins of the great vessels, subclavian, and vertebral 
arteries appear normal bilaterally.  The common carotid 
bifurcations appear normal. 
  
IMPRESSION: 
1. Unremarkable MRA of the neck.  No evidence of dissection. 
2. No evidence of stenosis by NASCET criteria. 

___ MRI BRAIN:
Final Report 
EXAMINATION:  STROKE PROTOCOL (BRAIN W/O) ___ MR HEAD. 
  
INDICATION:  History: ___ with right ICA dissection?// Stroke?. 
  
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then 
obtained. 
  
COMPARISON  CT of the head dated ___. 
  
FINDINGS:  
  
The exam is slightly limited by motion artifact.  Within these 
confines: 
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.   The ventricles and sulci are normal in caliber 
and 
configuration.  The few scattered FLAIR hyperintensities in the 
white matter 
suggestive of chronic microangiopathy.  The visualized major 
vascular flow 
voids are grossly preserved.  Minimal mucosal thickening of the 
ethmoid air 
cells, and bilateral maxillary sinuses.  Mastoid air cells are 
clear.  The 
intraorbital contents are unremarkable.  No abnormal marrow 
signal is 
identified. 
  
IMPRESSION: 
  
  
1. There is no evidence of acute intracranial process or 
hemorrhage. 
2. Subcortical and periventricular areas of FLAIR high-signal 
intensity are  nonspecific and may reflect changes due to 
chronic small vessel disease. 
  
___ OSH CTA head and neck:
- rereviewed with rads, thought of right ICA flow void 
abnormality likely related to artifactual signal 

___ 05:52AM BLOOD WBC-8.2 RBC-4.88 Hgb-15.6 Hct-46.5 MCV-95 
MCH-32.0 MCHC-33.5 RDW-13.2 RDWSD-46.5* Plt ___
___ 05:52AM BLOOD Plt ___
___ 05:52AM BLOOD ___ PTT-28.3 ___
___ 05:52AM BLOOD Glucose-124* UreaN-24* Creat-1.4* Na-140 
K-4.4 Cl-101 HCO3-25 AnGap-14
 
Brief Hospital Course:
This is a ___ year old man with history of CAD and prostate 
cancer who presented for evaluation of unsteadiness while 
walking. He initially presented to an OSH where CTA head and 
neck raised concern for right ICA dissection, prompting 
transfer. Neurological exam was non-focal and was only notable 
for slight anisocoria (left pupil 3.5>2, right 3>2). His gait 
was normal. He received 325 mg aspirin. MRI brain was without 
evidence of stroke. MRA head and neck with fat saturation was 
without evidence of right ICA abnormality. Impression overall is 
of that there was an artifact in the initial CTA scan that was 
concerning for dissection/flap. His symptoms resolved prior to 
transfer to ___ and his neurological exam remained normal 
during hospital stay. 

Transitional Issues:
- noted to have sensorineural hearing loss on exam (baseline), 
discussed using noise-protective equipment while operating loud 
machinery
- continue aspirin 81 mg for cardio-protective purposes as prior 
to admission
- follow-up with PCP ___ ___ weeks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 10 mg PO QPM 
2. Metoprolol Tartrate 25 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Metoprolol Tartrate 25 mg PO BID  
4.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dizziness, dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of unsteady gait after a 
strenuous weekend of wood-chopping. You had imaging at outside 
hospital with findings that were initially concerning for a 
blood vessel tear ("ICA vessel or ICA vessel dissection"). On 
repeat and more sensitive imaging, we found no evidence of a 
tear on the blood vessel.

Your symptoms improved and we think they may have been related 
to dehydration/overly strenuous activity rather than a blood 
vessel abnormality. 

Please continue to take aspirin 81 mg in addition to all of your 
other medications. We made no medication changes on this 
admission. We incidentally noticed that you are hard of hearing 
and recommend wearing hearing-protective devices while operating 
noisy machinery. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___